US06331640B1
A solution of 3-benzoylamino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester (10.7 g, 21.0 mmol) in tetrahydrofuran/methanol (3:1; 80 mL) was added to a stirred solution of lithium hydroxide monhydrate (2.65 g, 63.0 mmol) in water (40 mL) at room temperature. The reaction was stirred at room temperature overnight and then concentrated to remove methanol and tetrahydrofuran. Water (150 mL) was added and the mixture was cooled to between 0 and −5° C. The mixture was acidified to pH 3 with concentrated HCl and stirred for 10 min. The mixture was extracted twice with ethyl acetate, and the combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated to give 3-benzoylamino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine (7.1 g). The drying agent was extracted with ethyl acetate/methanol (50:3; 2×106 mL) to give a further quantity of the product (3.3 g). Overall yield:10.4 g (quantitative).

reactant | 3-benzoylamino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester | 21.0 mmol, 10.7 g | C(C1=CC=CC=C1)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)OC | C26H24ClN3O6
reactant | lithium hydroxide | 63.0 mmol, 2.65 g | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 80 mL | O1CCCC1.CO
solvent | water | 40 mL | O | H2O
product | 3-benzoylamino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine | 7.1 g | C(C1=CC=CC=C1)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)O | C25H22ClN3O6
